simulator lang=spectre
library gpdk045


section tt_ind
parameters indfactor=1
include "gpdk045_inductor.scs" section=ind
endsection tt_ind

section ss_ind
parameters indfactor=1.15
include "gpdk045_inductor.scs" section=ind
endsection ss_ind


section ff_ind
parameters indfactor=0.85
include "gpdk045_inductor.scs" section=ind
endsection ff_ind

section mc_ind
include "gpdk045_inductor.scs" section=stat_ind
parameters    par_indfactor             =    var_indfactor        
parameters    indfactor                 =   1+0.05*par_indfactor                      
include "gpdk045_inductor.scs" section=ind
endsection mc_ind

section stat_ind        
parameters      random_indfactor        = 0
parameters     var_indfactor            =     random_indfactor   
statistics {
   process {     
            vary    random_indfactor               dist=gauss std=1/1  
                    }
    }   
endsection stat_ind

section  ind
//*******************************************************
//     inductor parameters used to calculated the Inductor 
//             nr = Number of Turns 
//              w = Width
//              s = Space 
//              r = inner radius 
//*******************************************************
subckt g45inda (n1 n2 gnd)
parameters w=2u s=1.5u r=10u nr=8.5
+k1= 2.34 k2=2.75 u0=4e-7*3.14
c1  (n1 n2) capacitor c=1e-15*(w*w*1e12)*nr
r1 (n1 2) resistor r=0.021*(8*r*1e6*nr+(nr*(nr-1)/2)*(w+s)*1e6)/(w*1e6)
l1 (2 n2) inductor l=(k1*u0*nr*nr*(0.5*((2*r+(nr+0.5)*w+(nr-0.5)* s)+(2*r))))/(1+k2*(((2*r+(nr+0.5)*w+(nr-0.5)*s)-(2*r))/((2*r+(nr+0.5)*w+(nr-0.5)*s)+(2*r))))
c2 (n1 3) capacitor c=8e-14*(w*1e6*(8*r*1e6*nr+(nr*(nr-1)/2)*(w+s)*1e6))
c3 (n2 4) capacitor c=8e-14*(w*1e6*(8*r*1e6*nr+(nr*(nr-1)/2)*(w+s)*1e6))
c4 (3 gnd) capacitor c=5e-18*(w*1e6*(8*r*1e6*nr+(nr*(nr-1)/2)*(w+s)*1e6))
c5 (4 gnd) capacitor c=5e-18*(w*1e6*(8*r*1e6*nr+(nr*(nr-1)/2)*(w+s)*1e6))
r2 (3 gnd) resistor r=2e5/(w*1e6*(8*r*1e6*nr+(nr*(nr-1)/2)*(w+s)*1e6))
r3 (4 gnd) resistor r=2e5/(w*1e6*(8*r*1e6*nr+(nr*(nr-1)/2)*(w+s)*1e6))
ends g45inda

subckt g45inds (n1 n2 gnd)
parameters w=2u s=1.5u r=10u nr=8.5
+k1= 2.34 k2=2.75 u0=4e-7*3.14
c1  (n1 n2) capacitor c=1e-15*(w*w*1e12)*nr
r1 (n1 2) resistor r=0.021*(8*r*1e6*nr+(nr*(nr-1)/2)*(w+s)*1e6)/(w*1e6)
l1 (2 n2) inductor l=(k1*u0*nr*nr*(0.5*((2*r+(nr+0.5)*w+(nr-0.5)* s)+(2*r))))/(1+k2*(((2*r+(nr+0.5)*w+(nr-0.5)*s)-(2*r))/((2*r+(nr+0.5)*w+(nr-0.5)*s)+(2*r))))
c2 (n1 3) capacitor c=8e-14*(w*1e6*(8*r*1e6*nr+(nr*(nr-1)/2)*(w+s)*1e6))
c3 (n2 4) capacitor c=8e-14*(w*1e6*(8*r*1e6*nr+(nr*(nr-1)/2)*(w+s)*1e6))
c4 (3 gnd) capacitor c=5e-18*(w*1e6*(8*r*1e6*nr+(nr*(nr-1)/2)*(w+s)*1e6))
c5 (4 gnd) capacitor c=5e-18*(w*1e6*(8*r*1e6*nr+(nr*(nr-1)/2)*(w+s)*1e6))
r2 (3 gnd) resistor r=2e5/(w*1e6*(8*r*1e6*nr+(nr*(nr-1)/2)*(w+s)*1e6))
r3 (4 gnd) resistor r=2e5/(w*1e6*(8*r*1e6*nr+(nr*(nr-1)/2)*(w+s)*1e6))
ends g45inds

endsection ind 
 
endlibrary gpdk045 
